US06331640B1
Trifluoromethanesulfonic anhydride (3 mL, 17.7 mmol) was added to a cooled (−78° C.) solution of 2-chloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]-6-methylphenol (6.00 g, 14.8 mmol) and triethylamine (8.24 mL, 59.1 mmol) in dichloromethane (60 mL). After stirring for 2 h at −78° C., the reaction was quenched with solid ammonium chloride (4 g). The mixture was diluted with ethyl acetate (200 mL) and washed with 1N HCl (100 mL), saturated aqueous sodium bicarbonate and brine. The organic layer was dried (MgSO4), filtered, evaporated and chromatographed (20-30% ethyl acetate/hexanes) to give trifluoromethanesulfonic acid, 2-chloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]-6-methylphenyl ester (5.00 g, 63%) as pale orange oil.

reactant | Trifluoromethanesulfonic anhydride | 17.7 mmol, 3 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-chloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]-6-methylphenol | 14.8 mmol, 6.00 g | ClC1=C(C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C)O | C21H28ClNO3Si
reactant | triethylamine | 59.1 mmol, 8.24 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid, 2-chloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]-6-methylphenyl ester | 5.00 g, 63% | FC(S(=O)(=O)OC1=C(C=C(C=C1C)C(=O)NCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)Cl)(F)F | C22H27ClF3NO5SSi
